US04788204
Carbonyldiimidazole (1.65 g) is added to a stirred solution of dextrorotatory α-methyl-2-phenyl-4-quinazolinepropanoic acid (2 g) in tetrahydrofuran (20 cc). The mixture is stirred for one hour at room temperature (until the evolution of gas has ceased) and N-methylisopropylamine (1.03 cc) is then added. The mixture is stirred for three days at room temperature (approximately 20° C.), then heated under reflux for 6 hours, N-methylisopropylamine (1.03 cc) is added and the mixture is heated under reflux for a further 12 hours. The treatment is then similar to that described in Example 85. After two recrystallizations in acetonitrile, laevorotatory N-isopropyl-N-methyl-α-methyl-2-phenyl-4-quinazolinepropanamide (19 g), m.p. 171.2° C., is isolated; αD at 0.5% in EtOH at 23° C.=-12.1°±2°.

reactant | Carbonyldiimidazole | 1.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | α-methyl-2-phenyl-4-quinazolinepropanoic acid | 2 g | CC(C(=O)O)CC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C18H16N2O2
reactant | N-methylisopropylamine | 1.03 cc | CNC(C)C | C4H11N
reactant | N-methylisopropylamine | 1.03 cc | CNC(C)C | C4H11N
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | N-isopropyl-N-methyl-α-methyl-2-phenyl-4-quinazolinepropanamide | 19 g | C(C)(C)N(C(C(CC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1)C)=O)C | C22H25N3O
